US08207164B2
a) 2-(5-Bromo-2-fluoro-phenyl)-2-difluoromethyl-1-(2-nitro-benzenesulfonyl)-aziridine
2-Amino-2-(5-bromo-2-fluoro-phenyl)-3,3-difluoro-propan-1-ol (13.04 g, 45.9 mmol) [examples 42 step d)] was dissolved in 261 mL acetonitrile, 2-nitrobenzenesulfonyl chloride (22.38 g, 101 mmol) and potassium hydrogencarbonate (13.79 g, 138 mmol) were added. The mixture was heated to 80° C. and stirred over night. After this period, the reaction mixture was cooled down and partitioned between saturated aqueous NaHCO3 solution and TBME. The layers were separated, washed with brine and TBME. The combined organic layers were dried over MgSO4.H2O and evaporated. The crude product was purified on a silica gel column by eluting with hexane/dichloromethane 2/1->1/2 to give 7.71 g of the title compound as white crystals.

reactant | 2-Amino-2-(5-bromo-2-fluoro-phenyl)-3,3-difluoro-propan-1-ol | 45.9 mmol, 13.04 g | NC(CO)(C(F)F)C1=C(C=CC(=C1)Br)F | C9H9BrF3NO
reactant | 2-nitrobenzenesulfonyl chloride | 101 mmol, 22.38 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | potassium hydrogencarbonate | 138 mmol, 13.79 g | C(O)([O-])=O.[K+]
solvent | acetonitrile | 261 mL | C(C)#N | C2H3N
product | 2-(5-Bromo-2-fluoro-phenyl)-2-difluoromethyl-1-(2-nitro-benzenesulfonyl)-aziridine | 7.71 g | BrC=1C=CC(=C(C1)C1(N(C1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(F)F)F | C15H10BrF3N2O4S
